US07691892B2
b) 4-(5-{1-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine
The title compound (44.0 mg, 48%, clear oil) was prepared from 1-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl-ethanol (54.3 mg, 0.242 mmol), sodium hydride (12.0 mg, 0.29 mmol) and 4-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine (69.1 mg, 0.29 mmol). 1H NMR (CDCl3) δ (ppm): 8.75 (m, 2H), 8.16 (m, 1H), 8.04 (m, 1H), 7.61 (m, 2H), 7.49 (m, 2H), 6.59 (q, 1H), 3.63 (s, 3H), 2.04 (d, 3H).

reactant | 2-(3-chloro-phenyl)-2H-tetrazol-5-yl-ethanol | 0.242 mmol, 54.3 mg | ClC=1C=C(C=CC1)N1N=C(N=N1)C(C)O | C9H9ClN4O
reactant | sodium hydride | 0.29 mmol, 12.0 mg | [H-].[Na+]
reactant | 4-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine | 0.29 mmol, 69.1 mg | CS(=O)(=O)C=1N(C(=NN1)C1=CC=NC=C1)C | C9H10N4O2S
product | 4-(5-{1-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine | 44.0 mg, 48% | ClC=1C=C(C=CC1)N1N=C(N=N1)C(C)OC=1N(C(=NN1)C1=CC=NC=C1)C | C17H15ClN8O
